US04150139
By a procedure similar to that described in Example 35, 0.245 g of 3-methylsulfinyl-11H-s-triazolo [3,4-b][3]benzazepine, in lieu of 3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine, was reacted with 1.2 ml of 1 N-sodium ethoxide/ethanol in 2 ml of ethanol to obtain 3-ethoxy-11H-s-triazolo[3,4-b][3]benzazepine as crystals. Recrystallization from acetone yielded colorless needles, melting point 143°-144° C. The infrared absorption spectrum of this product was identical with that of the compound obtained in Example 35.

reactant | 3-methylsulfinyl-11H-s-triazolo [3,4-b][3]benzazepine | 0.245 g | CS(=O)C1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3OS
reactant | 3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | CS(=O)(=O)C1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3O2S
reactant | sodium ethoxide ethanol | [O-]CC.[Na+].C(C)O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-ethoxy-11H-s-triazolo[3,4-b][3]benzazepine | C(C)OC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C13H13N3O
